US04888043
A solution of fuming nitric acid (2.17 ml), glacial acetic acid (1.98 ml) and acetic anhydride (1.94 ml) was added dropwise to a solution of 2-propionyl-3-hydroxy-5-mesitylcyclohex-2-en-1-one (10 g, 34.9 mmol) in acetic anhydride (23.3 ml) at 5°. Stirring was continued at 5° for 1 hr, then at 20° for 2 hr and 50° for 10 min. The mixture was then cooled and poured into ice water. The aqueous solution was extracted with methylene chloride. The organic layer was washed with water; saturated sodium bicarbonate solution and then further water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to yield 2-propionyl-3-hydroxy-5-(3-nitro-2,4,6-trimethylphenyl)cyclohex-2-en-1-one as a pale yellow solid (9.59 g, 83%). The compound was characterized by proton magnetic resonance spectroscopy (CDCl3 ; δ in ppm): 1.15 (3H,t), 2.18 (3H,s); 2.24 (3H,s); 2.38 (3H,s); 2.4-4.1 (7H,m); 6.88 (1H,s); 18.20 (1H,s).

reactant | nitric acid | 2.17 ml | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | 1.98 ml | C(C)(=O)O | C2H4O2
reactant | 2-propionyl-3-hydroxy-5-mesitylcyclohex-2-en-1-one | 34.9 mmol, 10 g | C(CC)(=O)C=1C(CC(CC1O)C1=C(C=C(C=C1C)C)C)=O | C18H22O3
solvent | acetic anhydride | 23.3 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 1.94 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-propionyl-3-hydroxy-5-(3-nitro-2,4,6-trimethylphenyl)cyclohex-2-en-1-one | 9.59 g, 83% | C(CC)(=O)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)[N+](=O)[O-])C)=O | C18H21NO5
